*
* NGSPICE simulation script
*

* forces current values to be saved
.options savecurrents


* input voltage source
Va v1 v7 5.24842063411
R1 v2 v1 1.00147062639k
R2 v3 v2 2.0078068512k
R3 v2 GND 3.11269704405k
R4 GND v7 4.10609573471k
R5 v4 GND 3.02670672634k
R6 v7 v8 2.01292455078k
V6 v8 v6 0 ; we add this voltage source to sense the current through R6
R7 v6 v5 1.02905244808k
Id v5 v4 1.04086013403m
Gb v4 v3 v2 GND 7.21413591579m
Hc GND v5 V6 8.01455113996m

*******************************************************************************

.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"


echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end
